US05089507
5-methyl-2-(pyrrolidin-1-yl)methyl piperidine
By reducing g 4.5 (0.023 moles) of 5-methyl-2-(pyrrolidin-1-yl)carbonyl piperidine with LiAlH4 in THF the corresponsing diamine was obtained. The diastereoisomeric composition was checked by GLC performed on a 10 m Ph-Me silicone 50% capillary column, from 80° to 180° (rate 5° /min). Diast. A Rt 8.86 (57.93%), Diast. B. Rt 9.11 (42.07%).

reactant | 5-methyl-2-(pyrrolidin-1-yl)carbonyl piperidine | CC1CCC(NC1)C(=O)N1CCCC1 | C11H20N2O
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | C1CCOC1 | C4H8O
product | 5-methyl-2-(pyrrolidin-1-yl)methyl piperidine | CC1CCC(NC1)CN1CCCC1 | C11H22N2
